US07001897B2
To a solution of (2S)-2-{[3-(benzoyloxy)-azetidine-1-carbothioyl]amino}-3-(t-butyldiphenylsilyloxy)propionic acid methyl ester (23.3 g, 40.0 mmol) (obtained as described in Reference Example 70(3)) in tetrahydrofuran (700 ml) was added a 1.0 M solution of tetra-n-butylammonium fluoride in tetrahydrofuran (48.4 g, 48.4 mmol) in an ice bath and the mixture was stirred overnight. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:acetonitrile (3:1) as the eluant to afford (2S)-2-{[3-(benzoyloxy)-azetidine-1-carbothioyl]amino}-3-hydroxy-propionic acid methyl ester (12.6 g, yield 92%) as a white solid.

reactant | (2S)-2-{[3-(benzoyloxy)-azetidine-1-carbothioyl]amino}-3-(t-butyldiphenylsilyloxy)propionic acid methyl ester | 40.0 mmol, 23.3 g | COC([C@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)NC(=S)N1CC(C1)OC(C1=CC=CC=C1)=O)=O | C31H36N2O5SSi
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 48.4 mmol, 48.4 g | O1CCCC1 | C4H8O
product | (2S)-2-{[3-(benzoyloxy)-azetidine-1-carbothioyl]amino}-3-hydroxy-propionic acid methyl ester | 12.6 g, yield 92% | COC([C@H](CO)NC(=S)N1CC(C1)OC(C1=CC=CC=C1)=O)=O | C15H18N2O5S
